US08735589B2
Preparation of N-[2-iodo-4-(2-methylsulfamoyl-ethyl)-phenyl]-acetamide
To a solution of 2-(4-aminophenyl)ethane sulfonic acid methylamide (50 g) in dichloromethane (500 ml), a 10% solution of sodium bicarbonate (500 ml) was added at 25° C. so as to obtain a biphasic reaction mass. Iodine crystals were added slowly maintaining the temperature below 30° C. The mixture was agitated at 25° C. for about an hour and cooled to 10-15° C. The excess of iodine content in the mixture was neutralized with saturated sodium metabisulphite solution and a solution of 2-(4-amino-3-iodo-phenyl)-ethanesulfonic acid methylamide (75 g) in dichloromethane (750 ml) was added followed by dropwise addition of 50% solution of acetic anhydride in dichloromethane (300 ml) maintaining the temperature of 25° C. The reaction mass was stirred for about 90 minutes and layers were separated. The organic layer was washed with water, dried and distilled under vacuum to obtain a residue. The residue was stirred in heptane (500 ml), filtered and dried under vacuum at 50-55° C. to obtain the title compound. (Yield: 85 g, HPLC Purity: 99%)

reactant | 2-(4-aminophenyl)ethane sulfonic acid methylamide | 50 g | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
reactant | Iodine crystals | II | I2
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-(4-amino-3-iodo-phenyl)-ethanesulfonic acid methylamide | 75 g | CNS(=O)(=O)CCC1=CC(=C(C=C1)N)I | C9H13IN2O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | heptane | 500 ml | CCCCCCC | C7H16
product | N-[2-iodo-4-(2-methylsulfamoyl-ethyl)-phenyl]-acetamide | IC1=C(C=CC(=C1)CCS(NC)(=O)=O)NC(C)=O | C11H15IN2O3S
